US08217184B2
Trimethyl[(2R,3S)-3-(naphthalene-2-yl) oxirane-2-yl]silane (9.8 μg, 0.40 mmol) was dissolved in THF anhydride (1.6 mL) in a nitrogen atmosphere and the resultant solution was cooled down to −78° C. Thereinto, n-butyl lithium (2.69 molL−1 in 180.3 μL, 0.48 mmol of hexane solution) was dropped and the resultant reaction mixture was stirred at −78° C. for 90 minutes. Thereto, methyl iodide (99.8 μL, 1.60 mmol) was added and the resultant reaction mixture was stirred at −78° C. for 15 minutes. Thereafter, the reaction mixture was returned to the room temperature and was further stirred for 1 hour. The reaction was quenched with water and the resultant mixture was extracted with ethyl acetate. The organic phase was washed with water and saline and was dried over Na2SO4. The obtained crude product was purified by silica gel column chromatography (n-pentane/diethyl ether=0/0) to produce trimethyl [(2R,3S)-3-methyl-3-(naphthalene-2-yl) oxirane-2-yl]silane in a yield of 71%. Trimethyl[(2R,3S)-3-methyl-3-(naphthalene-2-yl) oxirane-2-yl]silane

reactant | Trimethyl[(2R,3S)-3-(naphthalene-2-yl) oxirane-2-yl]silane | 0.40 mmol, 9.8 μg | C[Si]([C@H]1O[C@H]1C1=CC2=CC=CC=C2C=C1)(C)C | C15H18OSi
reactant | n-butyl lithium | 0.48 mmol, 2.69 molL−1, 180.3 μL | C(CCC)[Li]
reactant | methyl iodide | 1.60 mmol, 99.8 μL | CI | CH3I
product | trimethyl [(2R,3S)-3-methyl-3-(naphthalene-2-yl) oxirane-2-yl]silane | yield of 71% | C[Si]([C@H]1O[C@]1(C1=CC2=CC=CC=C2C=C1)C)(C)C | C16H20OSi
